.subckt CMBNC  1  2  3  4  PARAMS:
+  L1=0.00060538
+  L2=0.00010035
+  L3=0.00004247
+  L4=0.00001022
+  L5=0.000000036
+  C1=0.000000000003
+  C2=0.000000000001
+  RS1=8828
+  RS2=1447
+  RS3=703
+  RS4=678
+  RS5=509
+  R2=0.11
+  DL3=0.00000031037
+  DL4=0.00000001106
+  DC3=0.00000000000019056
+  DC4=0.000000000007
+  DR3=1000
+  DR4=4500
+  DR5=11000
+  DR6=438
+  Rdc=0.43
+  ck=12.5pF
L5 N009 N008 {L3}
C3 N007 N006 {C1}
L1 4 N010 {L1}
L3 N010 N009 {L2}
L6 N015 N014 {L3}
C4 N024 N013 {C1}
L2 3 N016 {L1}
L4 N016 N015 {L2}
L8 N014 N013 {L4}
L7 N008 N006 {L4}
L9 N006 N005 {L5}
L10 N013 N021 {L5}
R1 N001 1 {Rdc}
R2 N003 N001 {dR4}
C1 N002 N001 {dC3}
L17 N011 N001 {dL3}
L18 N017 N018 {dL3}
C2 N011 N018 {ck}
R3 N003 N002 {dR3}
R4 N019 N022 {dR3}
C9 N022 N017 {dC3}
R5 N019 N017 {dR4}
L19 N003 N011 {dL3}
L20 N018 N019 {dL3}
R6 N017 2 {Rdc}
R8 N005 N003 {dR6}
C10 N004 N003 {dC4}
L13 N012 N003 {dL4}
L14 N019 N020 {dL4}
C11 N012 N020 {ck}
R9 N005 N004 {dR5}
R10 N021 N023 {dR5}
C12 N023 N019 {dC4}
R11 N021 N019 {dR6}
L15 N005 N012 {dL4}
L16 N020 N021 {dL4}
R7 N006 N005 {Rs5}
C5 N006 N005 {C2}
R12 N013 N021 {Rs5}
C6 N013 N021 {C2}
R13 N008 N006 {Rs4}
R14 N009 N008 {Rs3}
R15 N010 N009 {Rs2}
R16 4 N010 {Rs1}
R17 N014 N013 {Rs4}
R18 N015 N014 {Rs3}
R19 N016 N015 {Rs2}
R20 3 N016 {Rs1}
R21 4 N007 {R2}
R22 3 N024 {R2}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K7_1  L17  L18  0.9999
K7_2  L17  L19  0.9999
K7_3  L17  L20  0.9999
K7_4  L18  L19  0.9999
K7_5  L18  L20  0.9999
K7_6  L19  L20  0.9999
K6_1  L13  L14  0.9999
K6_2  L13  L15  0.9999
K6_3  L13  L16  0.9999
K6_4  L14  L15  0.9999
K6_5  L14  L16  0.9999
K6_6  L15  L16  0.9999
.ends  CMBNC
