* C:\users\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\GaNModels\Example EPC2619.asc
* Generated by LTspice 26.0.1 for Windows.
V16 VHS 0 PULSE(0 5 0 1n 1n {dutyCycle/freq} {1/freq})
V1 N010 0 {Vin}
V26 VLS 0 PULSE(0 5 {dutyCycle/freq+tdead} 1n 1n {1/freq-dutyCycle/freq-2*tdead} {1/freq})
L1 Vsw1 N009 47µ Rser=1u
C1 Vout 0 23.5µ
L2 U1_S Vsw {CSI}
L3 U2_S N018 {CSI}
S1 U1_S Vsw Vsw N008 MYSW
S2 U2_S N018 N018 N015 MYSW
V3 Vsw N008 {CSI_DISABLE}
V5 N018 N015 {CSI_DISABLE}
R1 Vsw1 Vsw 0.0007
R2 Vdc N010 1m
R12 VG_HS N004 1
R22 VG_LS N013 1
S12 IN_HS N003 VHS 0 GD_PU
V15 N003 Vsw 5
S22 IN_LS N012 VLS 0 GD_PU
V25 N012 N018 5
RLoad Vout 0 {Vin*dutyCycle/Iout}
R1d N001 N002 1µ
R2d Vsw N011 1µ
R1g VG_HS N005 1µ
R2g VG_LS N014 1µ
X§U1 N005 N002 U1_S EPC2304 Temp={Tj1} ;§pnba gatein)drainin)N_0
X§U2 N014 N011 U2_S EPC2304 Temp={Tj1} ;§pnba gatein)drainin)N_0
S11 Vsw N006 VHS 0 GD_PD
S21 N018 N016 VLS 0 GD_PD
R12gd N004 IN_HS {RGD_PU}
R11gd VG_HS N006 {RGD_PD}
R22gd N013 IN_LS {RGD_PU}
R21gd VG_LS N016 {RGD_PD}
Rq1 Vdc N001 0.00197
Rq2 0 N018 0.00036
R5 N009 Vout 0.00049
.tran 0 0.6ms {0.6m-10/{freq}}
.param Vin=160 dutyCycle=0.25 Iout=25 freq=100k tdead=10n Tj1=25
* .temp {Tj1}
.ic V(Vout)={Vin*dutyCycle} V(VG_HS,Vsw)=0 V(VG_LS)=0 V(Vdc)=Vin I(L1)=Iout V(C2)=5
.param RGD_PU=0.7 RGD_PD=0.4
*uP1966e driver
.option noopiter
.param CSI=100pH
.param CSI_DISABLE=0
.model MYSW SW(Ron=1m Roff=1Meg Vt=0.5 Vh=0.1)
.meas TRAN Phs AVG V(VG_HS,U1_S)*I(R1g)+V(Vdc,U1_S)*I(R1d)
.meas TRAN Pls AVG V(VG_LS,U2_S)*I(R2g)+V(Vsw,U2_S)*I(R2d)
.meas Pgd_hs AVG -V(IN_HS,Vsw)*I(V15)
.meas Pgd_ls AVG -V(IN_LS)*I(V25)
.meas Ptot param Phs+Pgd_hs+Pls+Pgd_ls
.meas Pin AVG -V(Vdc)*I(V1)
.meas Pout AVG V(Vout)*I(RLoad)
.meas Ploss param Pin-Pout
.meas Eff param Pout/Pin
.meas trg1 WHEN V(VHS)=2.5 RISE=9
.meas tr1 WHEN V(Vsw)={Vin*0.15} RISE=1 TD=trg1
.meas tr2 WHEN V(Vsw)={Vin*0.85} RISE=1 TD=tr1
.meas TRAN Ion FIND I(R1d) AT=tr2
.meas tI1 WHEN I(R1d)=Ion/20 RISE=1 TD=trg1
.meas trise_ns param (tr2-tr1)*1e9
.meas tf1 WHEN V(Vsw)={Vin*0.85} FALL=1 TD=(tr2+dutyCycle/freq*0.8)
.meas tf2 WHEN V(Vsw)={Vin*0.15} FALL=1 TD=tf1
.meas tI2 WHEN I(R1d)=Ion/20 FALL=1 TD=tf1
.meas tfall_ns param (tf2-tf1)*1e9
.meas dVdtON param Vin*0.7/trise_ns
.meas dVdtOFF param Vin*0.7/tfall_ns
.meas Eon INTEG V(Vdc,U1_S)*I(R1d)*1e6 FROM (tI1-trise_ns/1e9*1) TO (tr2+trise_ns/1e9*2)
.meas Eoff INTEG V(Vdc,U1_S)*I(R1d)*1e6 FROM (tf1-tfall_ns/1e9*1) TO (tI2+tfall_ns/1e9*2)
.meas Pon param (Eon/1e6*{freq})
.meas Poff param (Eoff/1e6*{freq})
.meas Pchs param (Phs-Pon-Poff)
.meas pldcr AVG V(Vsw1,Vsw)*I(R1)
* *Gate driver model can be added here
.model GD_PU SW(Ron=1m Roff=1Meg Vt=2.5 Vh=0)
.model GD_PD SW(Ron=1Meg Roff=1m Vt=2.5 Vh=0)
* EPC90153 DC resistance (VIN)
* EPC90153 DC resistance (GND)
* EPC90153 DC resistance (SW)
* Library below included based on ModelFile attribute of instance X§U1, X§U2 (C:\users\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\GaNModels\EPCGaN.asy)
.lib EPCGanlibrary.lib
.backanno
.end
