* C:\users\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\GaNModels\FET_model_validation.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 Vgs Vds 0 EPC2304 ;§pnba gatein)drainin)sourcein
Vds N001 0 100
Vgs NC_01 NC_02 5
Igs 0 Vgs PULSE(0 1 1n 1f 1f 100n 200n 1)
R1 Vgs 0 47k
I1 N001 Vds 30
D1 Vds N001 D
.model D D
.lib C:\users\giorgio\Local Settings\Application Data\LTspice\lib\cmp\standard.dio
* .dc Vds 0 5 0.01
.temp 25
* .step temp 0 150 0.1
* .op
* .ac lin 1 1Meg 1Meg
.tran 50n
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\GaNModels\EPCGaN.asy)
.lib EPCGanlibrary.lib
.backanno
.end
