* C:\users\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\GateDriverModels\GaN_driver_power_consumption.asc
* Generated by LTspice 26.0.1 for Windows.
Vlogic Vlogic 0 5
V§PWM_sig sig 0 PULSE(0 3.3 1u 6.5n 3.2n 5u 7.14u)
Vgate VDDO 0 5
R1 Gate Src 10
R2 Gate Snk 2.2
X§U1 Src VDDO sig 0 Vlogic NC_01 NC_02 NC_03 0 Snk 0 1EDB7275F THERMAL_MODEL=0 ;§pnba OUT_SRC)VDDO)IN+)GNDI)VDDI)Tj)Tamb)Tc)IN-)OUT_SNK)GNDO
R3 0 0 10Meg
X§U2 Gate N001 0 EPC2304 ;§pnba gatein)drainin)N_0
Vds N001 0 0
B§Energy int 0 V=idt( abs( I(Vgate) ) * abs( V(VDDO) ) )
B1 int_logic 0 V=idt( abs( V(Vlogic) ) * abs( I(Vlogic) ) )
.tran 22u
* .options srcsteps=0
* .options gminsteps=0
.meas TRAN Energy FIND V(int) AT 7.1428571u
.meas TRAN Power PARAM Energy*140000*1A
.meas TRAN Energy_logic FIND V(int_logic) AT 7.1428571u
.meas TRAN Power_logic PARAM Energy_logic*140000*1A
.meas TRAN Total_power PARAM (Power+Power_logic)*6
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\GateDriverModels\1EDB7275F.asy)
.lib 1EDB7275F.lib
* Library below included based on ModelFile attribute of instance X§U2 (C:\users\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\GateDriverModels\EPCGaN.asy)
.lib EPCGanlibrary.lib
.backanno
.end
