* Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\PFC\AC-DC Totem-Pole Bridgeless PFC Vin=200V Iin=100A Synchronous FETs.asc
* Generated by LTspice 26.0.1 for Windows.
L1 L SWN 13.7µ Rser=4.2m
V1 L N SINE(0 {{Vin}*2**0.5} {fgrid})
V2 OUT 0 {Vo}
X§U2 Q3_S N U2 I-V f0=16k G=0.6 ;§pnba IN+)IN-)OUT
R3 U1H_G N005 10
R4 U1H_G N007 2.2
R8 U5_G Q3_G 100
R10 U6_G Q4_G 100
X§U5 OUT U5_G Q3_S SCT4020DE_L3 ;§pnba D)G)S
X§U6 Q3_S U6_G 0 SCT4020DE_L3 ;§pnba D)G)S
X§U1 V_H_sig 0 V_L_sig 0 Q3_G Q3_S Q4_G 0 U2 PWM-PFC-DBL-LHC fps=fgrid phase=0 td1=15n td2=15n tr1=6.3n tf1=2.3n tr2=6.3n tf2=2.3n fsw=FPWM Vg_H=16 Vg_L=0 Rso1=0 Rsi1=0 Rso2=0 Rsi2=0 f02=8k GA=12500 Vref=0.3 ;§pnba AH1)AH0)AL1)AL0)BH1)BH0)BL1)BL0)FB
D3 U5_G Q3_G D
D4 U6_G Q4_G D
B2H V_120_H CF2P V=(5/16)*delay(V(V_H_sig),((1/3)/FPWM))
B3H V_240_H SWN V=(5/16)*delay(V(V_H_sig),((2/3)/FPWM))
D1 V_0_H N005 D
D5 N007 V_0_H D
R1 U1L_G N009 10
R2 U1L_G N011 2.2
D2 V_0_L N009 D
D6 N011 V_0_L D
B1L V_0_L 0 V=(5/16)*V(V_L_sig)
B1H V_0_H CF1P V=(5/16)*V(V_H_sig)
B2L V_120_L CF1N V=(5/16)*delay(V(V_L_sig),((1/3)/FPWM))
B3L V_240_L CF2N V=(5/16)*delay(V(V_L_sig),((2/3)/FPWM))
R5 U2H_G N001 10
R6 U2H_G N002 2.2
D7 V_120_H N001 D
D8 N002 V_120_H D
R7 U2L_G N003 10
R9 U2L_G N004 2.2
D9 V_120_L N003 D
D10 N004 V_120_L D
R11 U3H_G N006 10
R12 U3H_G N008 2.2
D11 V_240_H N006 D
D12 N008 V_240_H D
R13 U3L_G N010 10
R14 U3L_G N012 2.2
D13 V_240_L N010 D
D14 N012 V_240_L D
X§U1H U1H_G OUT CF1P EPC2304 ;§pnba gatein)drainin)sourcein
X§U2H U2H_G CF1P CF2P EPC2304 ;§pnba gatein)drainin)sourcein
X§U3H U3H_G CF2P SWN EPC2304 ;§pnba gatein)drainin)sourcein
X§U3 U1L_G CF1N 0 EPC2304 ;§pnba gatein)drainin)sourcein
X§U4 U2L_G CF2N CF1N EPC2304 ;§pnba gatein)drainin)sourcein
X§U7 U3L_G SWN CF2N EPC2304 ;§pnba gatein)drainin)sourcein
B5 test 0 V=delay(V(V_H_sig),((1/3)/FPWM))
V§CF2 CF2P CF2N {VC2}
V§CF1 CF1P CF1N {VC1}
.model D D
.lib C:\users\giorgio\Local Settings\Application Data\LTspice\lib\cmp\standard.dio
.tran 0 20m 0 10n
.param Vin=230 Vo=400 fgrid=50 Iin=10 FPWM=140k phase=0 Vg_H=16 Vg_L=0 Rg_on=2 Rg_off=1
.temp 25
.param VC2=(1/3)*{Vo} VC1=(2/3)*{Vo}
* Library below included based on ModelFile attribute of instance X§U1H, X§U2H, X§U3H, X§U3, X§U4, X§U7 (Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\PFC\EPCGaN.asy)
.lib EPCGanlibrary.lib
* Library below included based on ModelFile attribute of instance X§U5, X§U6 (Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\PFC\SCT4020DE_L3.asy)
.lib SCT4020DE_L3.lib
* Library below included based on ModelFile attribute of instance X§U2 (Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\PFC\I-V.asy)
.lib SS I-V.lib
* Library below included based on ModelFile attribute of instance X§U1 (Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\PFC\PWM-PFC-DBL-LHC.asy)
.lib SS PWM-PFC-DBL-LHC.lib
.backanno
.end
