* Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\PFC\PFC_ZVS.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N001 VDC CF1P EPC2304 ;§pnba gatein)drainin)sourcein
X§U2 N002 CF1P CF2P EPC2304 ;§pnba gatein)drainin)sourcein
X§U3 N003 CF2P Line EPC2304 ;§pnba gatein)drainin)sourcein
X§U4 N006 Line CF2N EPC2304 ;§pnba gatein)drainin)sourcein
X§U5 N008 CF2N CF1N EPC2304 ;§pnba gatein)drainin)sourcein
X§U6 N009 CF1N 0 EPC2304 ;§pnba gatein)drainin)sourcein
VAC L N SINE(0 325 {Fgrid})
L1 N007 L 7.5µ Ipk=96 Rser=2.11m Rpar=3.209k Cpar=4p
X§X1 CF2P CF2N HF_decoup
X§X2 CF2P CF2N FL2
X§X3 VDC 0 HF_decoup
C1 VDC 0 100n V=450 Rser=0.0242 Lser=0.75n Rpar=5Giga
C2 VDC 0 100n V=450 Rser=0.0242 Lser=0.75n Rpar=5Giga
X§X4 CF1P CF1N HF_decoup
X§X5 CF1P CF1N FL1
X§X6 VDC 0 Bulk_cap
X§U9 Neutral N I_AC_FB I-V f0=5k G=1 ;§pnba IN+)IN-)OUT
L2 Line N007 6.2µ Ipk=74 Rser=1.05m Rpar=1.5k Cpar=6.5p
B1 S2H CF2P V=(5/16)*(delay(V(PWMH),((1/3)/{FPWM})))
R3 N009 1L_SRC 10
R4 N009 1L_SNK 2.2
R5 N008 2L_SRC 10
R6 N008 2L_SNK 2.2
R7 N006 3L_SRC 10
R8 N006 3L_SNK 2.2
R9 N003 3H_SRC 10
R10 N003 3H_SNK 2.2
R11 N002 2H_SRC 10
R12 N002 2H_SNK 2.2
R13 N001 1H_SRC 10
R14 N001 1H_SNK 2.2
B3 S2L CF1N V=(5/16)*(delay(V(PWML),((1/3)/{FPWM})))
B2 S3H Line V=(5/16)*(delay(V(PWMH),((2/3)/{FPWM})))
B4 S3L CF2N V=(5/16)*(delay(V(PWML),((2/3)/{FPWM})))
B5 S1H CF1P V=(5/16)*V(PWMH)
B6 S1L 0 V=(5/16)*V(PWML)
R15 N005 0 {RL}
B7 N_SLW_L 0 V=16-V(SLW_L)
R16 0 N 1Meg
D1 S1H 1H_SRC D
D2 1H_SNK S1H D
D3 S1L 1L_SRC D
D4 1L_SNK S1L D
D5 S2H 2H_SRC D
D6 2H_SNK S2H D
D7 S2L 2L_SRC D
D8 2L_SNK S2L D
D9 S3H 3H_SRC D
D10 3H_SNK S3H D
D11 S3L 3L_SRC D
D12 3L_SNK S3L D
D13 Neutral VDC D
D14 0 Neutral D
R1 CF1P 0 1Meg
R2 CF2P 0 1Meg
R17 CF1N 0 1Meg
R18 Line 0 1Meg
R19 CF2N 0 1Meg
S1 VDC N005 N004 0 MySwitch
B8 N004 0 V=if(time > 20m, 5,0)
V1 CF2P CF2N {VC1} Rser=1
V2 CF1P CF1N {VC2} Rser=1
X§U7 PWMH 0 PWML 0 SLW_H 0 SLW_L 0 I_AC_FB PWM-PFC-DBL-FB fps={Fgrid} fsw={FPWM} phase=0 td1=15n td2=15n tr1=6.5n tf1=3.2n tr2=6.5n tf2=3.2n Vg_H=16 Vg_L=0 Rso1=0 Rsi1=0 Rso2=0 Rsi2=0 f02=5k GA=5k Vref=0.5 Iin={Iin} ;§pnba AH1)AH0)AL1)AL0)BH1)BH0)BL1)BL0)FB

* block symbol definitions
.subckt HF_decoup A B
C1 B A 100n V=450 Rser=0.0242 Lser=0.75n Rpar=5G
C2 B A 100n V=450 Rser=0.0242 Lser=0.75n Rpar=5G
C3 B A 100n V=450 Rser=0.0242 Lser=0.75n Rpar=5G
C4 B A 100n V=450 Rser=0.0242 Lser=0.75n Rpar=5G
C5 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
.ends HF_decoup

.subckt FL2 A B
C1 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C2 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C3 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C4 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C5 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C6 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C7 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C8 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C9 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C10 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
.ends FL2

.subckt FL1 A B
C1 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C2 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C3 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C4 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C5 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C6 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C7 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C8 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C9 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C10 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C11 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C12 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C13 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C14 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C15 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C16 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C17 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
C18 A B 2.2µ V=450 Rser=0.0043 Lser=0.65n Rpar=0.227G
.ends FL1

.subckt Bulk_cap A B
C1 A B 330µ V=450 Rser=0.3m Lser=25n Rpar=1Meg
C2 A B 330µ V=450 Rser=0.3m Lser=25n Rpar=1Meg
C3 A B 330µ V=450 Rser=0.3m Lser=25n Rpar=1Meg
C4 A B 330µ V=450 Rser=0.3m Lser=25n Rpar=1Meg
C5 A B 330µ V=450 Rser=0.3m Lser=25n Rpar=1Meg
.ends Bulk_cap

.model D D
.lib C:\users\giorgio\Local Settings\Application Data\LTspice\lib\cmp\standard.dio
.tran 0 80m 0 10n uic
.ic V(CF2P,CF2N)={VC1}
.ic V(CF1P,CF1N)={VC2}
.ic V(VDC)={Vo}
.ic I(L1)=0 I(L2)=0
* .op
.param Vo=400 Iin=10 phase=0 FPWM=140k Fgrid=50
* .option gminsteps=0
.param RL={Vo}/{Iin}
.model MySwitch SW(Ron=1m Roff=1Meg Vt=3.3)
.param VC1=(1/3)*{Vo}
.param VC2=(2/3)*{Vo}
* Library below included based on ModelFile attribute of instance X§U1, X§U2, X§U3, X§U4, X§U5, X§U6 (Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\PFC\EPCGaN.asy)
.lib EPCGanlibrary.lib
* Library below included based on ModelFile attribute of instance X§U9 (Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\PFC\I-V.asy)
.lib SS I-V.lib
* Library below included based on ModelFile attribute of instance X§U7 (Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\PoliTOThesis\Resources\simulations\PFC\PWM-PFC-DBL-FB.asy)
.lib SS PWM-PFC-DBL-FB.lib
.backanno
.end
